US04230707
A mixture of 83 g (0.83 mol) of methyl crotonate (Aldrich Chemical Company) and 100 g (0.83 mol) of methyl thiolactate (Helvetica Chemica Acta, Vol. 45, pages 1750-1765, 1962) in 800 ml of toluene is added dropwise to a stirred suspension of 64.8 g (1.2 mol) of sodium methoxide (Aldrich Chemical Company) in 500 ml of toluene. The suspension is stirred and refluxed for four and one-half hours, cooled, 500 ml of water is added and the mixture is made acidic by the addition of glacial acetic acid. The aqueous solution is extracted with toluene. The toluene layer is separated, washed successively with 200 ml of water, 200 ml of saturated sodium bicarbonate solution and 200 ml of water, dried over anhydrous Na2SO4, and the solution evaporated to give 90 g of tetrahydro-2,5-dimethyl-4-oxo-3-thiophenecarboxylic acid, methyl ester; bp 78°-80° C./0.04 mm.

reactant | methyl crotonate | 0.83 mol, 83 g | C(\C=C\C)(=O)OC | C5H8O2
reactant | methyl thiolactate | 0.83 mol, 100 g | C(C(O)C)(=S)OC | C4H8O2S
reactant | sodium methoxide | 1.2 mol, 64.8 g | C[O-].[Na+]
reactant | water | 500 ml | O | H2O
reactant | toluene | 800 ml | C1(=CC=CC=C1)C | C7H8
reactant | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | tetrahydro-2,5-dimethyl-4-oxo-3-thiophenecarboxylic acid, methyl ester | 90 g | CC1SC(C(C1C(=O)OC)=O)C | C8H12O3S
